US07214802B2
N-(5-tert-Butyl-2-methyl-pyridin-3-yl)-3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-[1,2,3]triazol-1-yl}-4-methyl-benzamide
Example 2 was prepared by coupling 3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-1,2,3-triazol-1-yl}-4-methyl-benzoic acid with 5-tert-butyl-2-methyl-pyridin-3-ylamine (See U.S. provisional application 60/567,693) in the same manner as Example 1. ESI MS m/z 496 [C29H33N7O+H]+.

reactant | 3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-1,2,3-triazol-1-yl}-4-methyl-benzoic acid | C1(CC1)CNC1=CC=C(C=N1)C=1N=NN(C1)C=1C=C(C(=O)O)C=CC1C | C19H19N5O2
reactant | 5-tert-butyl-2-methyl-pyridin-3-ylamine | C(C)(C)(C)C=1C=C(C(=NC1)C)N | C10H16N2
product | N-(5-tert-Butyl-2-methyl-pyridin-3-yl)-3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-[1,2,3]triazol-1-yl}-4-methyl-benzamide | C(C)(C)(C)C=1C=C(C(=NC1)C)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C=1C=NC(=CC1)NCC1CC1)=O | C29H33N7O
